US08445684B2
To a solution of (E)-butyl 3-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]acrylate (10.0 g, 28.7 mmol) in 200 mL of THF was added tetra-n-butylammonium fluoride trihydrate (7.5 g, 23.8 mmol, 0.83 equiv.) at room temperature under N2. The solution was stirred for 30 min at room temperature, diluted with EtOAc (500 mL), and washed with water (2×100 mL). The organic layer was dried over Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column, which was eluted with EtOAc/petroleum ether 1:5 to afford (E)-butyl 3-(1H-pyrrol-3-yl)acrylate (4.0 g, 72%) as a light yellow solid. LC-MS (ESI) m/z 194 (M+H+).

reactant | (E)-butyl 3-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]acrylate | 28.7 mmol, 10.0 g | C(C)(C)[Si](N1C=C(C=C1)/C=C/C(=O)OCCCC)(C(C)C)C(C)C | C20H35NO2Si
reactant | tetra-n-butylammonium fluoride trihydrate | 23.8 mmol, 7.5 g, 0.83 equiv. | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (E)-butyl 3-(1H-pyrrol-3-yl)acrylate | 4.0 g, 72% | N1C=C(C=C1)/C=C/C(=O)OCCCC | C11H15NO2
